US06107329
(±)-3-{[(5-Chloro-1H-indole-2-carbonyl)-amino]-acetyl}-thiazolidine-2-carboxylic acid Methyl Ester
(±)-Thiazolidine-2-carboxylic acid methyl ester hydro-chloride (1.02 mmol) and [(5-chloro-1H-indole-2-carbonyl)-amino]-acetic acid (1.02 mmol) were coupled according to Procedure A (1:1 dichloromethane-dimethylformamide solvent) and the crude product triturated with 1:1 ether-hexanes giving a light yellow solid. Yield 79%; HPLC (60/40) 4.47 minutes (95%); TSPMS 382/384 (MH+, 100%).

reactant | (±)-Thiazolidine-2-carboxylic acid methyl ester hydro-chloride | 1.02 mmol | Cl.COC(=O)C1SCCN1
reactant | [(5-chloro-1H-indole-2-carbonyl)-amino]-acetic acid | 1.02 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)NCC(=O)O | C11H9ClN2O3
solvent | dichloromethane dimethylformamide | ClCCl.CN(C=O)C
product | (±)-3-{[(5-Chloro-1H-indole-2-carbonyl)-amino]-acetyl}-thiazolidine-2-carboxylic acid Methyl Ester | Yield 79% | COC(=O)C1SCCN1C(CNC(=O)C=1NC2=CC=C(C=C2C1)Cl)=O | C16H16ClN3O4S
